US04247551
N-(2,5-Diethyl-1H-pyrrol-1-yl)-6-morpholino-3-pyridazineamine
To 1.95 g (10 m moles) of 3-hydrazino-6-morpholino-pyridazine dissolved in 12 ml of acetic acid, 1.71 g (12 m moles) of 3,6-octanedione dissolved in 4 ml of acetic acid are added at room temperature. The mixture is heated at 67° C. for 2 hours and then evaporated to dryness under vacuum. The oily residue is dissolved in toluene and the solution is evaporated to dryness. The residue is slurried with ice-water and neutralized with sodium bicarbonate to yield 2.58 g of a solid product. Said material, after crystallization from isopropanol gives 1.25 g (42%) of the title product, melting at 186°-9° C. Elemental analysis, I. R., N.M.R. and mass spectra are in agreement with the assigned structure.

reactant | 3-hydrazino-6-morpholino-pyridazine | 1.95 g | N(N)C=1N=NC(=CC1)N1CCOCC1 | C8H13N5O
reactant | 3,6-octanedione | 1.71 g | CCC(CCC(CC)=O)=O | C8H14O2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-(2,5-Diethyl-1H-pyrrol-1-yl)-6-morpholino-3-pyridazineamine | 2.58 g | C(C)C=1N(C(=CC1)CC)NC=1N=NC(=CC1)N1CCOCC1 | C16H23N5O
